US05099019
EXAMPLE 126 3β-Hydroxy-16α-methyl-21-[4-[2,6-bis(1-pyrrolidinyl)-4-pyrimidinyl]-1-piperazinyl]pregn-5-en-20one
3β-Hydroxy-21-iodo-16α-methylpregn-5-en-20-one (10 g) is added all at once to 4-[2,6-bis(1-pyrrolidinyl)-4-pyrimidinyl]piperazine (16 g) in DMF (400 ml) at 65° and then concentrated to 50 ml under reduced pressure. The concentrate is added to sodium dihydrogen phosphate (0.3 M, 400 ml) and ethyl acetate (500 ml). The pH is adjusted to 4.5 with 0.3 M phosphoric acid. The ethyl acetate layer is separated and extracted with sodium dihydrogen phosphate (0 3 M, 2 ×200 ml). The ethyl acetate extract is then washed with phosphoric acid (0.3 M, 400 ml). The acid extract is stirred and the ph is adjusted to 3.5 with sodium hydroxide (10%). The resulting precipitate is filtered, washed with water (200 ml) and dried to give the title compound.

reactant | 3β-Hydroxy-21-iodo-16α-methylpregn-5-en-20-one | 10 g | O[C@@H]1CC2=CC[C@H]3[C@@H]4C[C@H]([C@H](C(CI)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)C | C22H33IO2
reactant | 4-[2,6-bis(1-pyrrolidinyl)-4-pyrimidinyl]piperazine | 16 g | N1(CCCC1)C1=NC(=CC(=N1)N1CCNCC1)N1CCCC1 | C16H26N6
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
product | 3β-Hydroxy-16α-methyl-21-[4-[2,6-bis(1-pyrrolidinyl)-4-pyrimidinyl]-1-piperazinyl]pregn-5-en-20one | O[C@@H]1CC2=CC[C@H]3[C@@H]4C[C@H]([C@H](C(CN5CCN(CC5)C5=NC(=NC(=C5)N5CCCC5)N5CCCC5)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)C | C38H58N6O2
